US07932272B2
5-(3-Fluorophenoxy)thiophene-2-carbonitrile
5-Nitrothiophene-2-carbonitrile (2 g, 13 mmol), 3-fluorophenol (1.75 g, 15.6 mmol) and potassium carbonate (3.6 g, 26 mmol) were suspended in dimethylsulfoxide (15 mL), and the mixture was stirred at room temperature for 16 hours. Water and ethyl acetate were added for partitioning, silica gel was added to the organic layer, and the solvent was evaporated in vacuo for adsorption. Purification was carried out by silica gel column chromatography (hexane:ethyl acetate=10:1), and the title compound (670 mg, 3.1 mmol, 23.5%) was obtained as an oil.

reactant | 5-Nitrothiophene-2-carbonitrile | 13 mmol, 2 g | [N+](=O)([O-])C1=CC=C(S1)C#N | C5H2N2O2S
reactant | 3-fluorophenol | 15.6 mmol, 1.75 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | potassium carbonate | 26 mmol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Fluorophenoxy)thiophene-2-carbonitrile | 3.1 mmol, 670 mg, 23.5% | FC=1C=C(OC2=CC=C(S2)C#N)C=CC1 | C11H6FNOS
